US07923451B2
3-Oxo-4-pyridin-4-yl-butyric acid ethyl ester
A solution of pyridin-4-yl-acetic acid hydrochloride salt (1.73 g 10 mmol) in CH2Cl2 (50 mL) was treated with triethylamine (2.09 mL, 15 mmol), followed by 1,1′-carbonyldiimidazole (2.43 g, 15 mol). After 4 h, the solution was added dropwise to a 0° C. solution of 2,2-dimethyl-[1,3]dioxane-4,6-dione (Meldrum's acid; 1.73 g, 12 mmol) and pyridine (1.63 mL, 20 mmol) in CH2Cl2 (50 mL). The reaction mixture was allowed to warm slowly to rt and was stirred for 18 h. The mixture was washed with H2O (2×), and the organic layer was dried and concentrated. The crude residue was dissolved in EtOH (100 mL) and heated at reflux for 4 h. The mixture was allowed to cool to rt and was concentrated. The residue was purified by chromatography (EtOAc/hexanes) to give the title compound (411 mg, 15%) as a pale yellow oil. MS (ESI): mass calcd. for C11H13NO3, 207.1; m/z found, 208.1 [M+H]+. 1H NMR (CDCl3): 8.57 (dd, J=4.4, 1.6, 2H), 7.16 (dd, J=4.4, 1.6, 2H), 4.20 (q, J=7.2, 2H), 3.88 (s, 2H), 3.51 (s, 2H), 1.28 (t, J=7.2, 3H).

reactant | pyridin-4-yl-acetic acid hydrochloride salt | 10 mmol, 1.73 g | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | triethylamine | 15 mmol, 2.09 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonyldiimidazole | 15 mol, 2.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,2-dimethyl-[1,3]dioxane-4,6-dione | 12 mmol, 1.73 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | pyridine | 20 mmol, 1.63 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Oxo-4-pyridin-4-yl-butyric acid ethyl ester | 411 mg, 15% | C(C)OC(CC(CC1=CC=NC=C1)=O)=O | C11H13NO3
